US05308857
A mixture of 4-(5-cyanomethylfuran-2-yl)-2-thioureidothiazole (11.4 g) and methyl iodide (2.7 ml) in methanol (110 ml) and tetrahydrofuran (60 ml) was refluxed for 1.5 hours under stirring. Evaporation of the solvent gave a residue, which was triturated with ethyl acetate to give 2-[(amino)(methylthio)methyleneamino]-4-(5-cyanomethylfuran-2-yl)thiazole hydriodide (14.50 g).

reactant | 4-(5-cyanomethylfuran-2-yl)-2-thioureidothiazole | 11.4 g | C(#N)CC1=CC=C(O1)C=1N=C(SC1)NC(=S)N | C10H8N4OS2
reactant | methyl iodide | 2.7 ml | CI | CH3I
solvent | methanol | 110 ml | CO | CH4O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 2-[(amino)(methylthio)methyleneamino]-4-(5-cyanomethylfuran-2-yl)thiazole hydriodide | 14.50 g | I.NC(SC)=NC=1SC=C(N1)C=1OC(=CC1)CC#N | InChI=1S/C11H10N4OS2.HI/c1-17-10(13)15-11-14-8(6-18-11)9-3-2-7(16-9)4-5-12;/h2-3,6H,4H2,1H3,(H2,13,14,15);1H
